US05766528
Tapes with Acetylacetone/Acetone
On the first day, 1.31 grams of dispersant, NP-10 (Union Carbide), 1.6 grams of high-resistivity water (very pure water prepared in-house for semiconductor work) and 15 grams of solvent mixture (made from 172 ml acetone and 28 ml acetylacetone) were added and mixed well in a 250 ml polypropylene bottle. Then, 13.0 grams of borosilicate glass powder and 8.75 grams of quartz were added into the mixture and ball milled overnight using 10 mm diameter ZrO2 balls. On the second day, 0.2 gram of binder, Butvar B79 (Monsanto) was added into the mixture and ball milled for one hour. Then 2.41 grams of B79, 2.61 grams of plasticizer, Santicizer 160 (butyl phthalate from Monsanto) were added into the bottle and milled for about 3 hours to obtain a creamy, smooth mixture known as a slip or slurry. The slip was cast on a carrier of Fujimori Mylar™ using a 6 inch wide doctor blade having a 16 mil gap at 14 ft/min at room temperature.

reactant | NP-10 | C1=C(N(C(=C1)[N+](=O)[O-])CCO)C(=O)N | C7H9N3O4
reactant | water | 1.6 grams | O | H2O
reactant | acetylacetone | 28 ml | C(C)(=O)CC(C)=O | C5H8O2
reactant | polypropylene | 250 ml | C(C(C)[*:2])[*:1]
reactant | Santicizer 160 | CCCCOC(=O)C1=CC=CC=C1C(=O)OCC2=CC=CC=C2 | C19H20O4
solvent | acetone | 172 ml | CC(=O)C | C3H6O
product | Acetylacetone Acetone | C(C)(=O)CC(C)=O.CC(=O)C | InChI=1S/C5H8O2.C3H6O/c1-4(6)3-5(2)7;1-3(2)4/h3H2,1-2H3;1-2H3
